US07083962B2
The carbonyl reductases of the present invention can utilize NADPH as a coenzyme, have no alcohol dehydrogenating activity, and reduce 3,4-dimethoxyphenylacetone by utilizing NADPH as a coenzyme to produce 90% ee or more (S)-1-(3,4-dimethoxyphenyl)-2-propanol.

reactant | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | 3,4-dimethoxyphenylacetone | COC=1C=C(C=CC1OC)CC(C)=O | C11H14O3
product | (S)-1-(3,4-dimethoxyphenyl)-2-propanol | COC=1C=C(C=CC1OC)C[C@H](C)O | C11H16O3
